US07265149B2
In analogy to the procedure described for example 1 f], {6-[2,4-dimethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain {6-[2,4-dimethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as yellow solid.

reactant | {6-[2,4-dimethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C25H24F3N3O3
reactant | LiOH | [Li+].[OH-]
product | {6-[2,4-dimethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | CN1N=C(C(=C1COC1=CC=C2C=CN(C2=C1)CC(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C23H20F3N3O3
